US06528525B1
2-(4-Methylthiophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-120 compound)
In a similar manner to that described in Example 2, methyl 2-(4-methylthiophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (203 mg), which is the product of Example 130, was reacted with aqueous sodium hydroxide solution (1N, 0.74 ml) and the reaction mixture was treated to give the title compound (153 mg) as colorless crystals.

reactant | methyl 2-(4-methylthiophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 203 mg | CC1=CC=C(SC(C(=O)OC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C31H30N2O4S
reactant | sodium hydroxide | 1N, 0.74 ml | [OH-].[Na+]
product | 2-(4-Methylthiophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 153 mg | CC1=CC=C(SC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C30H28N2O4S
